US07407961B2
To a suspension of 3-amino-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide 4-oxide (1.0 g) in DMF was added phosphoric trichloride (1.07 ml) at −40° C. for 20 minutes. This reaction mixture was warmed to −10° C. and stirred for 1 hour. To this solution was added water (40 ml) and stirred at 40° C. for 14 hours. The pH of the resulting suspension was adjusted to 4.5 with 30% The pH of the aqueous mixture was adjusted to 6-7 with 12% aq. NaOH. The precipitate was collected by filtration and washed with water to give 3-amino-5-chloro-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide (263 mg) as a yellow powder.

reactant | 3-amino-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide 4-oxide | 1.0 g | NC=1C(=NC(=C[N+]1[O-])C1=CN(C(C=C1)=O)C)C(=O)N | C11H11N5O3
reactant | phosphoric trichloride | 1.07 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 40 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-amino-5-chloro-6-(1-methyl-6-oxo-1,6-dihydro-3-pyridyl)-2-pyrazinecarboxamide | 263 mg | NC=1C(=NC(=C(N1)Cl)C1=CN(C(C=C1)=O)C)C(=O)N | C11H10ClN5O2
